US04552866
(B) N-[(2R,3S)-3-Amino-2-hydroxy-5-methylhexyl]-L-leucinamide, dihydrochloride
A solution of 250 mg (0.47 mmol) of N-[[(4S)-3-[(t-butyloxy)carbonyl]-2,2-dimethyl-4-(2-methylpropyl)-5-oxazolidinyl]methyl]-N-[(phenylmethoxy)carbonyl]-L-leucinamide in 3 ml of dry dichloromethane was cooled in an ice bath under nitrogen, and treated with 1.5 ml of distilled trifluoroacetic acid. The reaction was stirred at ambient temperature. After 1 hour, the solvent was removed in vacuo, the residue dissolved in 1.7 ml of distilled tetrahydrofuran, treated with 1.0 ml (1 mmol) of 1N hydrochloric acid, and stirred at ambient temperature. After three hours, the reaction was concentrated in vacuo, and the residue was stored in the freezer overnight. The next morning a solution of 259 mg of the free amine hydrochloride from above in 6 ml of a 3:1; acetic acid:water mixture was treated with 1.4 ml (1.4 mmol) of 1N hydrochloric acid, and 150 mg of 10% palladium on charcoal. It was reduced with a steady stream of hydrogen at 1 atmosphere pressure. After 4 hours, filtration of the reaction mixture followed by concentration of the filtrate afforded 242 mg of crude product. The compound was purified by chromatography on a 40 ml column of HP-20 resin, eluted with a gradient from 250 ml of 96:3:1 to 250 ml of 18:2:80, water:1N hydrochloric acid:methanol. The product containing fractions were pooled and concentrated in vacuo then lyophilized from water to obtain 112 mg of the title compound as a 1.3 mole water solvate.

reactant | N-[[(4S)-3-[(t-butyloxy)carbonyl]-2,2-dimethyl-4-(2-methylpropyl)-5-oxazolidinyl]methyl]-N-[(phenylmethoxy)carbonyl]-L-leucinamide | 0.47 mmol, 250 mg | C(C)(C)(C)OC(=O)N1C(OC([C@@H]1CC(C)C)CN(C([C@@H](N)CC(C)C)=O)C(=O)OCC1=CC=CC=C1)(C)C | C29H47N3O6
reactant | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 1 mmol, 1N, 1.0 ml | Cl | ClH
reactant | hydrochloric acid | 1.4 mmol, 1N, 1.4 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 1.3 mole | O | H2O
product | N-[(2R,3S)-3-Amino-2-hydroxy-5-methylhexyl]-L-leucinamide, dihydrochloride | 112 mg | Cl.Cl.N[C@H]([C@@H](CNC([C@@H](N)CC(C)C)=O)O)CC(C)C | InChI=1S/C13H29N3O2.2ClH/c1-8(2)5-10(14)12(17)7-16-13(18)11(15)6-9(3)4;;/h8-12,17H,5-7,14-15H2,1-4H3,(H,16,18);2*1H/t10-,11-,12+;;/m0../s1
